US07247734B2
This compounds was synthesised in the same manner as described above. 1-(5-Chloro-2,4-dihydroxy-phenyl)-2-phenyl-ethanone (1.5 g, 5.7 mmol), acetic anhydride (2.0 ml), Potassium carbonate (2.1 g 15.2 mmol). 6-Chloro-7-hydroxy-2-methyl-3-phenyl-chromen-4-one was obtained as white solid (1.4 g, 85.8%).

reactant | 1-(5-Chloro-2,4-dihydroxy-phenyl)-2-phenyl-ethanone | 5.7 mmol, 1.5 g | ClC=1C(=CC(=C(C1)C(CC1=CC=CC=C1)=O)O)O | C14H11ClO3
reactant | acetic anhydride | 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Potassium carbonate | 15.2 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
product | 6-Chloro-7-hydroxy-2-methyl-3-phenyl-chromen-4-one | ClC=1C=C2C(C(=C(OC2=CC1O)C)C1=CC=CC=C1)=O | C16H11ClO3
